US05484917
E. N-tert-butyl-2-[3-(3-(3-tolyl)ureido)-2-oxo-5-phenyl-2,3,4,5-tetrahydro-1H-(1)benzazepin-1-yl] ethanoic acid amide
To a 25 ml round-bottomed flask equipped with N2 inlet were added N-tert-butyl-2-[3-amino-2-oxo-5-phenyl-2,3,4,5-tetrahydro-1H-(1)benzazepin-1-yl] ethanoic acid amide (0.50 g, 1.368 mmoles)and 10 ml methylene chloride under nitrogen, and the reaction cooled in an ice bath. A solution of m-tolyl isocyanate (0.194 ml, 1.5 mmol) in 5 ml methylene chloride was then added dropwise. A solid formed immediately. Stirring was continued for 15 minutes and then the ice bath removed, allowing the reaction to come to room temperature for several hours. The solid was filtered and washed with methylene chloride/hexane (1:1), yielding 600 mg (87.9%) of product, mp 263°-266° C.

reactant | N-tert-butyl-2-[3-amino-2-oxo-5-phenyl-2,3,4,5-tetrahydro-1H-(1)benzazepin-1-yl] ethanoic acid amide | 1.368 mmoles, 0.50 g | C(C)(C)(C)NC(CN1C(C(CC(C2=C1C=CC=C2)C2=CC=CC=C2)N)=O)=O | C22H27N3O2
reactant | m-tolyl isocyanate | 1.5 mmol, 0.194 ml | C1(=CC(=CC=C1)N=C=O)C | C8H7NO
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | N-tert-butyl-2-[3-(3-(3-tolyl)ureido)-2-oxo-5-phenyl-2,3,4,5-tetrahydro-1H-(1)benzazepin-1-yl] ethanoic acid amide | 600 mg, 87.9% | C(C)(C)(C)NC(CN1C(C(CC(C2=C1C=CC=C2)C2=CC=CC=C2)NC(=O)NC=2C=C(C=CC2)C)=O)=O | C30H34N4O3
